US04699984
To 55 ml of concentrated sulphuric acid cooled in a salt-ice bath to about -10° to -15° C. was added 10.1 g of potassium nitrate over a 5 minute period. The mixture was allowed to stir for 10 minutes and then to it was added dropwise over a 30 minute period 18.5 g of 4-(2-fluorophenyl)-2,6-dimethylpyridine whereupon a gummy solid separated and a viscous slurry was obtained, the reaction temperature rising to about 0° C. In order to facilitate stirring, another 50 ml portion of concentrated sulphuric acid was added dropwise over a 15 minute period and the resulting mixture was stirred in the salt-ice bath and then stirred for a period of about 5 hours while allowing the temperature of the reaction mixture to rise to room temperature. The reaction mixture was poured onto a large excess of ice and the mixture was neutralized by adding aqueous ammonium hydroxide solution. The resulting light yellow fluffy precipitate was collected, washed with water and air dried. The solid was then dissolved in 300 ml of chloroform, the solution treated with decolorizing charcoal and filtered. The filtrate was concentrated on a rotary evaporator and the residue was slurred with 200 ml of 1:1 ether-n-hexane, the mixture filtered and the collected solid dried at 70°-75° C. to yield 18.67 g (84%) of 4-(2-fluoro-5-nitrophenyl)-2,6-dimethylpyridine, m.p. 169°-171° C.

reactant | sulphuric acid | 55 ml | S(O)(O)(=O)=O | H2O4S
reactant | potassium nitrate | 10.1 g | [N+](=O)([O-])[O-].[K+]
reactant | 4-(2-fluorophenyl)-2,6-dimethylpyridine | 18.5 g | FC1=C(C=CC=C1)C1=CC(=NC(=C1)C)C | C13H12FN
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 4-(2-fluoro-5-nitrophenyl)-2,6-dimethylpyridine | 18.67 g, 84% | FC1=C(C=C(C=C1)[N+](=O)[O-])C1=CC(=NC(=C1)C)C | C13H11FN2O2
